US09403807B2
Step F: (E)-N-(1-(3-(4-chlorophenyl)-1-cyanopent-1-en-3-yl)-1H-indazol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methanesulfonamide
To a mixture of diethyl cyanomethylphosphonate (20 mg, 0.12 mmol), LiCl (5 mg, 0.12 mmol) and DBU (18 mg, 0.12 mmol) in MeCN (2 mL) was added a solution of N-(1-(2-(4-chlorophenyl)-1-oxobutan-2-yl)-1H-indazol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methane sulfonamide (50 mg, 0.10 mmol) in MeCN (1 mL). The mixture was stirred at room temperature for 2 h and evaporated. The residue was purified by silica gel chromatography (PE/EA=6/1) to afford the title compound as a white solid. LC/MS m/z=545.2 [M+H]+.

reactant | diethyl cyanomethylphosphonate | 0.12 mmol, 20 mg | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | LiCl | 0.12 mmol, 5 mg | [Li+].[Cl-]
reactant | DBU | 0.12 mmol, 18 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | N-(1-(2-(4-chlorophenyl)-1-oxobutan-2-yl)-1H-indazol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methane sulfonamide | 0.10 mmol, 50 mg | ClC1=CC=C(C=C1)C(C=O)(CC)N1N=CC2=C(C=CC=C12)N(S(=O)(=O)C)COCC[Si](C)(C)C | C24H32ClN3O4SSi
solvent | MeCN | 2 mL | CC#N | C2H3N
solvent | MeCN | 1 mL | CC#N | C2H3N
product | (E)-N-(1-(3-(4-chlorophenyl)-1-cyanopent-1-en-3-yl)-1H-indazol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methanesulfonamide | ClC1=CC=C(C=C1)C(/C=C/C#N)(CC)N1N=CC2=C(C=CC=C12)N(S(=O)(=O)C)COCC[Si](C)(C)C | C26H33ClN4O3SSi
